US07576115B2
Synthesis of methyl 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)-carbonothioyl]amino}-2-nitrobenzoate
Dimethylformamide (1.3 mL) and conc. hydrochloric acid (1 drop) were added to 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene (71 mg, 0.26 mmol) synthesized in Reference Synthetic Example 33 and methyl 4-hydrazinocarbonothioylamino-2-nitrobenzoate (70 mg, 0.26 mmol) synthesized in Reference Synthetic Example 56, and the mixture was stirred at room temperature for 2 days. The precipitated solid was filtered to obtain 110 mg of the desired product as a pale yellow solid (yield 81%).

reactant | 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.26 mmol, 71 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C16H18O2S
reactant | methyl 4-hydrazinocarbonothioylamino-2-nitrobenzoate | 0.26 mmol, 70 mg | N(N)C(=S)NC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H10N4O4S
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | Dimethylformamide | 1.3 mL | CN(C=O)C | C3H7NO
product | methyl 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)-carbonothioyl]amino}-2-nitrobenzoate | 110 mg, yield 81% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=S)NC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-])O | C25H26N4O5S2
